US04859662
1,2,3,9-Tetrahydro-9-methyl-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one
A solution of triphenylchloromethane (286 mg) in dry DMF (10 ml) was added dropwise to a stirred solution of 1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one (292 mg) and triethylamine (101 mg) in dry DMF (20 ml) and the resulting solution was stirred at room temperature under nitrogen for 3.5 h. The reaction mixture was then poured into water (100 ml) and the resultant suspension was extracted with dichloromethane (3×50 ml). The combined, dried organic extracts were adsorbed onto FCC silica which was then applied to a column and FCC eluting with System A (150:8:1) gave a solid which was further purified by crystallisation from dichloromethane:hexane (2:1) to give the title compound (304 mg), m.p. 193°-195°.

reactant | triphenylchloromethane | 286 mg | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | 1,2,3,9-tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one | 292 mg | CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CNC1C)=O | C18H19N3O
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,2,3,9-Tetrahydro-9-methyl-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one | 304 mg | CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H33N3O
